US06777432B1
To a suspension of the of 2-(2-azido-phenyl)-isoindole-1,3-dione (373 mg, 1.4 mmol) in ethanol (10 mL) was added hydrazine (140 μL, 4.24 mmol) followed by stirring for 15 minutes. The reaction mixture was poured into water and was extracted with ethyl acetate (3×25 mL). The combined extracts were washed with water and brine and were dried over magnesium sulfate. Filtration and concentration in vacuo gave a residue which was purified via radial chromatography (1 mm plate, 10% 5ethyl acetate/hexanes to 33% ethyl acetate/hexanes gradient elution) to give 48 mg (25%) of 2-azidophenylamine as a solid: 1H NMR (300 MHz, DMSO-d6) δ 6.98 (m, 1H), 6.86 (m, 1H), 6.66-6.55 (m, 2H).

reactant | 2-(2-azido-phenyl)-isoindole-1,3-dione | 1.4 mmol, 373 mg | N(=[N+]=[N-])C1=C(C=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C14H8N4O2
reactant | hydrazine | 4.24 mmol, 140 μL | NN | H4N2
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-azidophenylamine | 48 mg, 25% | N(=[N+]=[N-])C1=C(C=CC=C1)N | C6H6N4
